US07282588B2
Preparation of N-3-biphenylyl-N′-{4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}urea
A solution of 4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]aniline (0.23 mmol) in tetrahydrofuran (1 mL) was treated with triethylamine (0.23 mmol) and 4-nitrophenyl chloroformate (0.23 mmol). The reaction stirred for 1 h at room temperature and was then treated with 3-biphenylamine (5 eq). After stirring 18 h at room temperature the reaction was poured into water (1 mL), and extracted with (3×1 mL) ethyl acetate. The combined organic layers were washed with 1N sodium hydroxide (3×1 mL), brine (1×1 mL), dried over sodium sulfate and concentrated in vacuo. Purification of the residue by Gilson reverse phase HPLC provided the title product as a white powder (45%). ESMS [M+H]+: 499.2

reactant | 4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]aniline | 0.23 mmol | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC=C2)C2=CC=C(N)C=C2 | C18H17N5
reactant | triethylamine | 0.23 mmol | C(C)N(CC)CC | C6H15N
reactant | 4-nitrophenyl chloroformate | 0.23 mmol | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 3-biphenylamine | 5 eq | C1(=CC(=CC=C1)N)C1=CC=CC=C1 | C12H11N
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | N-3-biphenylyl-N′-{4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}urea | 45% | C1(=CC(=CC=C1)NC(=O)NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC=C2)CC)C2=CC=CC=C2 | C31H26N6O
